US05110815
5,6,7,8-Tetrahydro-5-amino-5-methyl-2(1H)-quinolinone hydrochloride
5,6,7,8-Tetrahydro-5-methyl-2-(phenylmethoxy)-5-quinolinamine dihydrochloride (9.5 g) and 10% palladium-on-carbon (730 mg) in absolute ethanol (500 ml) were shaken on a Parr hydrogenation apparatus, starting at 55 psi of hydrogen, until hydrogen uptake ceased. The catalyst was removed by filtration, and the filtrate was neutralized with 4-polyvinylpyridine and concentrated. The residue was suspended in hot methanol and the solid was collected. The solid was combined with the material that crystallized from the methanol to afford 3.36 g (56%) of product, mp 214°-216° C. (dec).

reactant | 5,6,7,8-Tetrahydro-5-methyl-2-(phenylmethoxy)-5-quinolinamine dihydrochloride | 9.5 g | Cl.Cl.CC1(C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1)N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 730 mg | [Pd] | Pd
product | 5,6,7,8-Tetrahydro-5-amino-5-methyl-2(1H)-quinolinone hydrochloride | 3.36 g, 56% | Cl.NC1(C=2C=CC(NC2CCC1)=O)C | InChI=1S/C10H14N2O.ClH/c1-10(11)6-2-3-8-7(10)4-5-9(13)12-8;/h4-5H,2-3,6,11H2,1H3,(H,12,13);1H
